### PR TITLE
Top hom

### PR DESCRIPTION
**Pull request by jt496**
Test PR for review 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -184,13 +184,16 @@ lemma isClique_sup_edge_of_ne_iff {v w : α} {s : Set α} (h : v ≠ w) :
...
 
-/-- The vertices in a copy of `⊤` are a clique. -/
-theorem isClique_range_copy_top (f : Copy (⊤ : SimpleGraph β) G) :
+theorem isClique_range_hom_top (f : (⊤ : SimpleGraph β) →g G) :
     G.IsClique (Set.range f) := by
   intro _ ⟨_, h⟩ _ ⟨_, h'⟩ nh
-  rw [← h, ← Copy.topEmbedding_apply, ← h', ← Copy.topEmbedding_apply] at nh ⊢
-  rwa [← f.topEmbedding.coe_toEmbedding, (f.topEmbedding.apply_eq_iff_eq _ _).ne,
-    ← top_adj, ← f.topEmbedding.map_adj_iff] at nh
+  rw [← h, ← f.embeddingOfTopHom_apply, ← h', ← f.embeddingOfTopHom_apply] at nh ⊢
```
Comment (jt496) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:190]: How about
```suggestion
  rw [← h, ← f.embeddingOfTopHom_apply, ← h', ← f.embeddingOfTopHom_apply] at *
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 2]
```diff
@@ -316,6 +316,11 @@ theorem injective_of_top_hom (f : (⊤ : SimpleGraph V) →g G') : Function.Inje
   contrapose! h
   exact G'.ne_of_adj (map_adj _ ((top_adj _ _).mpr h))
 
+/-- Any graph homomorphism from a complete graph can be upgraded to a graph embedding -/
```
Comment (jt496) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
/-- A graph homomorphism from a complete graph can be upgraded to a graph embedding -/
```

**Review by jt496 — COMMENTED** [review]
Looks good!
